US04518597
6-(4-Phenylsulfinyl-butoxy)-4,4,7-trimethyl-4H-3,1-benzoxazin-2-one
Prepared analogously to Example 4 from 6-hydroxy-4,4,7-trimethyl-4H-3,1-benzoxazin-2-one and 4-phenylsulfinylbutylbromide.

reactant | 6-hydroxy-4,4,7-trimethyl-4H-3,1-benzoxazin-2-one | OC=1C(=CC2=C(C(OC(N2)=O)(C)C)C1)C | C11H13NO3
reactant | 4-phenylsulfinylbutylbromide | C1(=CC=CC=C1)S(=O)CCCCBr | C10H13BrOS
product | 6-(4-Phenylsulfinyl-butoxy)-4,4,7-trimethyl-4H-3,1-benzoxazin-2-one | C1(=CC=CC=C1)S(=O)CCCCOC=1C(=CC2=C(C(OC(N2)=O)(C)C)C1)C | C21H25NO4S
